US08253129B2
Under an argon atmosphere, 8.64 g of 10-(4-bromophenyl)benzo[g]chrysene which had been prepared in a similar way to Synthesis Example 4 was placed in a flask, and 400 mL of dehydrated ether was added. The reaction solution was cooled to −40° C. and 14 mL of 1.6M n-butyllithium hexane solution was added. After heating to 0° C., the resultant was stirred for 1 hour. The reaction solution was cooled to −60° C. and 20 mL of dehydrated ether solution in which 9.41 g of triisopropyl borate was dissolved was dripped. The reaction solution was stirred for 5 hours with heating to room temperature. 100 mL of 10% aqueous solution of hydrochloric acid was added and stirring was conducted for 1 hour. An aqueous phase was removed and an organic phase which had been separated was washed with water and saturated brine, and then dried with magnesium sulfate. After the magnesium sulfate was filtered out, the organic phase was concentrated. The resulting solids were washed with hexane, whereby 4.78 g (yield: 60%) of 4-[benzo[g]chrysene-10-yl]phenylboronic acid was obtained.

reactant | 10-(4-bromophenyl)benzo[g]chrysene | 8.64 g | BrC1=CC=C(C=C1)C=1C=C2C3=CC=CC=C3C3=C(C2=C2C=CC=CC12)C=CC=C3 | C28H17Br
reactant | ether | 400 mL | CCOCC | C4H10O
reactant | n-butyllithium hexane | 1.6M, 14 mL | CCCCCC.C(CCC)[Li]
reactant | ether | 20 mL | CCOCC | C4H10O
reactant | hydrochloric acid | Cl | ClH
reactant | triisopropyl borate | 9.41 g | B(OC(C)C)(OC(C)C)OC(C)C | C9H21BO3
product | 4-[benzo[g]chrysene-10-yl]phenylboronic acid | 4.78 g, yield: 60% | C1=CC=CC2=C1C1=C3C=CC=CC3=C(C=C1C1=CC=CC=C21)C2=CC=C(C=C2)B(O)O | C28H19BO2
